### PR TITLE
[Merged by Bors] - feat: MDifferentiableOn.iUnion

### PR DESCRIPTION
**Pull request by grunweg**
Analogue of #26673 for `MDifferentiableOn`.

Transitive mathlib clean-up from the path towards geodesics and the Levi-Civita connection.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 1]
```diff
@@ -817,6 +817,56 @@ protected theorem MDifferentiableWithinAt.insert (h : MDifferentiableWithinAt I
     MDifferentiableWithinAt I I' f (insert x s) x :=
   h.insert'
 
+/-! ### Being differentiable on a union of sets can be tested on each set -/
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]:
```suggestion
/-! ### Being differentiable on a union of open sets can be tested on each set -/
```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 2]
```diff
@@ -817,6 +817,56 @@ protected theorem MDifferentiableWithinAt.insert (h : MDifferentiableWithinAt I
...
+/-- If a function is differentiable on open sets `s i`, it is differentiable on their union. -/
+lemma MDifferentiableOn.iUnion_of_isOpen {ι : Type*} {s : ι → Set M}
+    (hf : ∀ i : ι, MDifferentiableOn I I' f (s i)) (hs : ∀ i, IsOpen (s i)) :
+    MDifferentiableOn I I' f (⋃ i, s i) := by
+  rintro x ⟨si, ⟨i, rfl⟩, hxsi⟩
+  exact (hf i).mdifferentiableAt ((hs i).mem_nhds hxsi) |>.mdifferentiableWithinAt
+
+/-- A function is differentiable on a union of open sets `s i`
+iff it is differentiable on each `s i`. -/
+lemma mdifferentiableOn_iUnion_iff_of_isOpen  {ι : Type*} {s : ι → Set M}
```
Comment (sgouezel) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean]:
```suggestion
lemma mdifferentiableOn_iUnion_iff_of_isOpen {ι : Type*} {s : ι → Set M}
```

**Review by sgouezel — COMMENTED** [review]
bors d+

**Comment by grunweg** [comment]
Thanks for the quick review!
bors merge
